US07176242B2
Step 5: 1-Butyl-1H-indazole-6-carboxylic acid
To a mixture of methyl 1-butyl-1H-indazole-6-carboxylate (0.356 g) in methanol (10 mL) was added saturated sodium bicarbonate (5 mL). The mixture was heated at 60° C. for 2 h at which time 1N NaOH (5 mL) was added and the mixture heated to 80° C. for 18 h. The mixture was cooled to room temperature, poured into 1N HCl (50 mL), and extracted with ethyl acetate. The ethyl acetate extract dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 0.310 g of the title compound: 1H NMR (CDCl3) δ 0.964, 1.96, 4.48, 7.81, 7.89, 8.29, 8.46.

reactant | methyl 1-butyl-1H-indazole-6-carboxylate | 0.356 g | C(CCC)N1N=CC2=CC=C(C=C12)C(=O)OC | C13H16N2O2
reactant | sodium bicarbonate | 5 mL | C([O-])(O)=O.[Na+]
reactant | NaOH | 1N, 5 mL | [OH-].[Na+]
reactant | HCl | 1N, 50 mL | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 1-Butyl-1H-indazole-6-carboxylic acid | 0.310 g | C(CCC)N1N=CC2=CC=C(C=C12)C(=O)O | C12H14N2O2
